2176-11-03 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2176-11-2**] 12:11 PM
 INVASIVE VENTILATION - STOP [**2176-11-2**] 05:15 PM
   Allergies:
   Captopril
   Macroglossia/A
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-11-2**] 06:00 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-11-2**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-3**] 12:00 AM
   Furosemide (Lasix) - [**2176-11-3**] 12:05 AM
   Dextrose 50% - [**2176-11-3**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-3**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 77 (67 - 88) bpm
   BP: 140/51(71) {117/44(63) - 152/63(81)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.2 kg (admission): 80.9 kg
   Height: 66 Inch
    CVP: 12 (11 - 12)mmHg
   PAP: (41 mmHg) / (20 mmHg)
   Total In:
                                                                  1,584 mL
                                                                    129 mL
   PO:
                                                                    320 mL
   TF:
                                                                    224 mL
   IVF:
                                                                  1,041 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,237 mL
                                                                  1,060 mL
   Urine:
                                                                  1,237 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    347 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 435 (435 - 554) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.41/46/118/29/4
   Ve: 7 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   10.8 g/dL
   146 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   29 mg/dL
   102 mEq/L
   137 mEq/L
   33.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2176-10-31**]  08:15 PM
                             [**2176-10-31**]  09:17 PM
                             [**2176-11-1**]  12:30 AM
                             [**2176-11-1**]  04:35 AM
                             [**2176-11-1**]  05:04 AM
                             [**2176-11-1**]  05:16 PM
                             [**2176-11-2**]  05:07 AM
                             [**2176-11-2**]  12:27 PM
                             [**2176-11-2**]  04:49 PM
                             [**2176-11-3**]  04:00 AM
   WBC
   13.8
   10.1
   8.2
   10.8
   Hct
   29.9
   29.2
   27.0
   33.4
   Plt
   177
   144
   113
   120
   Cr
   1.2
   1.1
   1.2
   1.0
   0.8
   0.8
   TCO2
   27
   25
   29
   30
   Glucose
   [**Telephone/Fax (2) 10476**]2
   218
   146
   Other labs: PT / PTT / INR:11.5/30.1/1.0, CK / CKMB /
   Troponin-T:[**2152**]/44/3.76, ALT / AST:45/51, Alk Phos / T Bili:89/,
   Amylase / Lipase:29/, Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Microbiology: [**10-31**] BCx pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 DIABETIC KETOACIDOSIS (DKA)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-10-31**] 02:00 PM
   20 Gauge - [**2176-10-31**] 02:00 PM
   22 Gauge - [**2176-11-2**] 10:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: